US04243609
A mixture of ethyl 2-fluoro-4-aminocinnamate, one equivalent of 1-bromohexadecane and one equivalent of anhydrous potassium carbonate in hexamethylphosphoramide is heated for 20 hours at 60° C. The mixture is then cooled, diluted with water and extracted with ether. The combined ether extracts are dried, filtered and evaporated to provide ethyl 4-hexadecylaminocinnamate. The ester is hydrolyzed with sodium hydroxide in a 1:9 water:ethanol solution at steam bath temperatures for 10 hours. The hot solution is then acidified with acetic acid, cooled and filtered and the solid is washed with water. Recrystallization from chloroform yields 2-fluoro-4-(hexadecylamino)cinnamic acid.

reactant | ethyl 2-fluoro-4-aminocinnamate | FC1=C(C=CC(=O)OCC)C=CC(=C1)N | C11H12FNO2
reactant | 1-bromohexadecane | one equivalent | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | potassium carbonate | one equivalent | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | ethyl 4-hexadecylaminocinnamate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=CC(=O)OCC)C=C1 | C27H45NO2
